US08106043B2
6-Nitro-4-(2-(pyrrolidin-1-yl)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazine:
To a stirred solution of 1-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)-2-(pyrrolidin-1-yl)ethanone (750 mg, 2.440 mmol) in tetrahydrofuran (5 mL) was added borane-tetrahydrofuran complex (1M in tetrahydrofuran; 7.32 mL, 7.32 mmol). The resulting mixture was then stirred at 55° C. overnight. The reaction mixture was then cooled to room temperature and quenched carefully via the slow, dropwise addition of methanol (5 mL). The quenched mixture was then stirred at 55° C. overnight. At this time, the reaction was vented to the atmosphere. The mixture was then concentrated and chromatographed on silica gel, eluting with 1:4:5 (2M NH3 in methanol):ethyl acetate:dichloromethane, giving the desired product (654 mg, 91%) as a red oil. 1H NMR (DMSO-d6) δ 7.46 (d, J=2.4 Hz, 1H), 7.36 (dd, J=8.4, 2.1 Hz, 1H), 7.19 (d, J=8.4 Hz, 1H), 3.69-3.65 (m, 2H), 3.50 (t, J=6.9 Hz, 2H), 3.14-3.10 (m, 2H), 2.63 (t, J=6.9 Hz, 2H), 2.56-2.51 (m, 2H), 1.71-1.66 (m, 4H); ESI-MS (m/z, %): 294 (MH+, 100).

reactant | 1-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)-2-(pyrrolidin-1-yl)ethanone | 2.440 mmol, 750 mg | [N+](=O)([O-])C1=CC2=C(SCCN2C(CN2CCCC2)=O)C=C1 | C14H17N3O3S
reactant | borane tetrahydrofuran | 7.32 mmol, 1M, 7.32 mL | B.O1CCCC1
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 6-Nitro-4-(2-(pyrrolidin-1-yl)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazine | 654 mg, 91% | [N+](=O)([O-])C1=CC2=C(SCCN2CCN2CCCC2)C=C1 | C14H19N3O2S
